US04414390
To a solution of 5-(imidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril (4 g) in acetic acid (80 ml) was added dropwise at room temperature a solution of bromine (2.22 g) in acetic acid (5 ml). After completion of addition, the mixture was stirred for 3 hours. Crystals which precipitated were collected by filtration and washed with diethyl ether. The crystals thus obtained were dissolved in acetone and the solution was adjusted to pH of about 1 by the addition of 48% hydrobromic acid. Crystals which precipitated were collected by filtration and recrystallized from methanol-water to give 5 g of 5-(3-bromoimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril monohydrobromide monohydrate.

reactant | 5-(imidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril | 4 g | N=1C(=CN2C1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | C17H13N3O2
reactant | bromine | 2.22 g | BrBr | Br2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 5-(3-bromoimidazo[1,2-a]pyridine-2-yl)-8-methoxycarbostyril monohydrobromide monohydrate | 5 g | O.Br.BrC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | InChI=1S/C17H12BrN3O2.BrH.H2O/c1-23-12-7-5-11(10-6-8-14(22)20-15(10)12)16-17(18)21-9-3-2-4-13(21)19-16;;/h2-9H,1H3,(H,20,22);1H;1H2
